US07098212B2
(2-(5-Chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-phenoxy)-propionic acid
To a solution of 2-(5-chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-phenoxy)-propionic acid ethyl ester (0.075 g, 0.15 mmol) in methanol (0.4 mL), tetrahydrofuran (0.4 mL) and water (0.2 mL) was added lithium hydroxide monohydrate (0.010 g, 0.24 mmol). The resulting mixture was stirred at ambient temperature for three hours. The reaction was acidifed to pH 4 with 0.2 N aqueous hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate and concentrated in vacuo. The crude product was purified by trituration with methylene chloride/diethyl ether to give the title compound (0.066 g, LRMS: 479.2, 481.2).

reactant | 2-(5-chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-phenoxy)-propionic acid ethyl ester | 0.15 mmol, 0.075 g | C(C)OC(C(C)OC1=C(C=CC(=C1)Cl)OCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C)=O | C26H32ClFN2O5
reactant | lithium hydroxide monohydrate | 0.24 mmol, 0.010 g | O.[OH-].[Li+]
reactant | hydrochloric acid | 0.2 N | Cl | ClH
solvent | methanol | 0.4 mL | CO | CH4O
solvent | tetrahydrofuran | 0.4 mL | O1CCCC1 | C4H8O
solvent | water | 0.2 mL | O | H2O
product | 2-(5-Chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-phenoxy)-propionic acid | 0.066 g | ClC=1C=CC(=C(OC(C(=O)O)C)C1)OCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C | C24H28ClFN2O5
